US05015551
In 100 ml of cyclohexane was dissolved 65.0 g of divinylbenzene (a 55% ethylbenzene solution of a mixture of m-divinylbenzene and p-divinylbenzene) and after adding dropwise thereto an amine-amide complex composed of 64.5 g of di-n-butylamine and 25 mmoles of n-butyl lithium, the mixture was heated to 50° C. for 3 hours. To the reaction mixture was added 1 ml of methanol. After concentrating the mixture, 1 g of di-tert-butylcatechol was added to the residue, and then the resultant mixture was distilled under reduced pressure to provide 53.5 g of (di-n-butylaminoethyl)styrene (a colorless liquid having a boiling point of 100.0°-101.0° C./1 mm Hg).

reactant | divinylbenzene | 65.0 g | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
reactant | m-divinylbenzene | C(=C)C1=CC(=CC=C1)C=C | C10H10
reactant | p-divinylbenzene | C(=C)C1=CC=C(C=C1)C=C | C10H10
reactant | di-n-butylamine | 64.5 g | C(CCC)NCCCC | C8H19N
reactant | n-butyl lithium | 25 mmoles | C(CCC)[Li]
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
solvent | methanol | 1 ml | CO | CH4O
product | (di-n-butylaminoethyl)styrene | 53.5 g | C(CCC)N(CCCC)CCC=CC1=CC=CC=C1 | C18H29N
